US04845239
50 g (0.073 mol) of sodium heptadecafluorododecyl 2-hydroxy-3-chloropropyl phosphate was charged into a reactor, to which 1000 ml of ethanol was added, followed by agitation and heating to 70° C. to obtain a uniform mixture. Thereafter, the reaction system was cooled down to 30° C., to which was gradually added 40.5 g (0.073 mol) of a 0.0018 mol/g sodium hydroxide ethanol solution, followed by agitation for 4 hours while keeping the temperature. The HPLC analysis revealed the disappearance of a peak of the starting material with a peak for the resultant new product appearing. The resultant NaCl precipitate was removed by filtration and the ethanol was distilled off under reduced pressure to obtain 47 g (yield: 99%) of sodium heptadecafluorododecyl glycidyl phosphate.

reactant | sodium heptadecafluorododecyl 2-hydroxy-3-chloropropyl phosphate | 0.073 mol, 50 g | P(=O)(OC(C(C(C(C(C(C(CCCCC(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(OCC(CCl)O)[O-].[Na+]
reactant | sodium hydroxide ethanol | C(C)O.[OH-].[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | sodium heptadecafluorododecyl glycidyl phosphate | 47 g, yield: 99% | P(=O)(OC(C(C(C(C(C(C(CCCCC(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(OCC1CO1)[O-].[Na+] | InChI=1S/C15H14F17O5P.Na/c16-8(17,3-1-2-4-9(18,19)20)10(21,22)11(23,24)12(25,26)13(27,28)14(29,30)15(31,32)37-38(33,34)36-6-7-5-35-7;/h7H,1-6H2,(H,33,34);/q;+1/p-1
